US04156777
1.79 g (10 mmol) of 1-amino-1-deoxy-β-D-glucopyranose is dissolved (partially suspended) in 40 ml of anhydrous ethanol, and the solution is cooled to 0°-5° C. To this solution is added 2.2 g (50 mmol) of dry-ice little by little so as to convert the glucopyranose into its carbonic acid-addition salt. This acid-addition salt solution is then added dropwise to a solution prepared by dissolving 3.28 g (12 mmol) of o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate in a mixture of 40 ml anhydrous tetrahydrofuran and 10 ml benzene, while stirring, at 0°-5° C. over an hour. The resultant mixture is stirred further at 20°-25° C. for 2 hours, and the thus reacted solution is concentrated at 50° C. and below, under reduced pressure. The crystalline residue obtained is washed with anhydrous ethyl ether and then with acetone, dried under reduced pressure, and recrystallized from anhydrous isopropanol to give 2.72 g of 3-(β-D-glucopyranosyl)-1-(2 -chloroethyl)-1-nitrosourea. Yield 86.8%. mp 77°-78° C. (decomp.). [α]D25 -10.3° (C 1.0, water). Analysis for C9H16N3O7Cl (MW 313.69):

reactant | 1-amino-1-deoxy-β-D-glucopyranose | 10 mmol, 1.79 g | N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H13NO5
reactant | dry-ice | 50 mmol, 2.2 g | C(=O)=O | CO2
reactant | glucopyranose | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
reactant | carbonic acid | C(O)(O)=O | CH2O3
reactant | o-nitrophenyl N-(2-chloroethyl)-N-nitrosocarbamate | 12 mmol, 3.28 g | ClCCN(C(OC1=C(C=CC=C1)[N+](=O)[O-])=O)N=O | C9H8ClN3O5
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-(β-D-glucopyranosyl)-1-(2 -chloroethyl)-1-nitrosourea | 2.72 g, Yield 86.8% | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC(N(N=O)CCCl)=O | C9H16ClN3O7
